US05837715
Step 2 trans-3-Fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine
Using a similar procedure to that described in Example 1, step 4, trans-1-tert-butoxycarbonyl-3-fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine (0.4615 g, 1.23 mmol) was reacted with trifluoroacetic acid (1.5 mL) in dichloromethane (3 mL) to give 0.3292 g (97%) of the title compound as a colourless oil. δH (360 MHz, CDCl3) 1.35 (1H, m), 2.02 (1H, m), 2.55-2.69 (2H, m), 2.82 (1H, m), 2.99 (1H, m), 3.31 (1H, m), 4.02 (2H, m), 4.34 (1H, two m), 7.35 (1H, t, J=7.6 Hz), 7.53 (1H, t, J=7.6 Hz), 7.63-7.67 (2H, m). m/e (ES+) 277 (M+H)+.

reactant | trans-1-tert-butoxycarbonyl-3-fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine | 1.23 mmol, 0.4615 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NCC1=C(C=CC=C1)C(F)(F)F)F | C18H24F4N2O2
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | trans-3-Fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine | 0.3292 g, 97% | F[C@@H]1CNCC[C@H]1NCC1=C(C=CC=C1)C(F)(F)F | C13H16F4N2
